* VCA824
*****************************************************************************
* (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.                                             
** TI and its licensors and suppliers make no warranties, either expressed                                           
** or implied, with respect to this model, including the warranties of                                                    
** merchantability or fitness for a particular purpose. The model is                                                      
** provided solely on an "as is" basis. The entire risk as to its quality                                                    
** and performance is with the customer                                                                                                 
*****************************************************************************
*  Header modified on 2009-05-13
*****************************************************************************
*
*  Released by: Analog eLab Design Center, Texas Instruments Inc.
*  Part: VCA824
*  Date: 2009-05-05
*  Model Type: PSpice
*  Simulator: PSpice 16.0.0.p001
*  Simulator Version: 7.0.30.267 SF-TI
*  Datasheet: SBOS394C–NOVEMBER 2007–REVISED DECEMBER 2008
*
****************************************************************************
*  VCA824  Ultra-Wideband, >40dB Gain Adjust Range, Linear in V/V, Variable Gain Amplifier
*  Rev. A
*
*  NOTES:
*   1- This macromodel predicts well: DC, small-signal AC, noise,
*      , and transient performance under a wide range
*      of conditions.
*      Gain versus Control Voltage was also tested
*   2- This macromodel does not predict well: distortion
*      (harmonic, intermod, diff. gain & phase, ...),
*      temperature effects, board parasitics, differences
*      between package styles, and process changes
*   3- For Spice3F4 users they might need to un-comment the lines for the F 
*      function and comment out the Lines for PSpice F functions
*      and subckts. First try the present netlist then comment out lines if 
*      errors appear.
*      General form:
*      FXXXXXXX N+ N- <POLY(ND)> VN1 <VN2 ...> P0 <P1 ...> <IC=...>
*      Examples:
*      F1 12 10 VCC 1MA 1.3M
*   4- For some simulators the subckt for the F statement need to be placed 
*      inside the ends statement followed by carriage return  
*   5- Known Problems: - None
*
* |-------------------------------------------------------------|
* |  This macro model is being supplied as an aid to            |
* |  circuit designs.  While it reflects reasonably close       |
* |  similarity to the actual device in terms of performance,   |
* |  it is not suggested as a replacement for breadboarding.    |
* |  Simulation should be used as a forerunner or a supplement  |
* |  to traditional lab testing.                                |
* |                                                             |
* |  Neither this library nor any part may be copied without    |
* |  the express written consent of Texas Instruments Corp.     |
* |-------------------------------------------------------------|
*
* CONNECTIONS:
*                      Positive Supply
*                      |   Gain Control
*                      |   |   Non-Inverting Input 
*                      |   |   |   Gain Setting Resistor Terminals
*                      |   |   |     |   |  Inverting Input
*                      |   |   |     |   |    |  Negative Supply
*                      |   |   |     |   |    |   |  Reference Voltage 
*                      |   |   |     |   |    |   |   |  Output
*                      |   |   |     |   |    |   |   |    |
*                      |   |   |     |   |    |   |   |    |    Feedback
*                      |   |   |     |   |    |   |   |    |      |
.SUBCKT VCA824 +Vcc VG +Vin +Rg -Rg -Vin -Vcc Vref Out Gnd FB

X_U5_F8    U5_N00257 U5_N00297 N09821 -VCC VCA82X_BIAS_U5_F8 
X_U5_F1    U5_N00167 U5_N00177 +VCC N06304 VCA82X_BIAS_U5_F1 
V_U5_V1         U5_N00167 U5_N00195 0.433V
E_U5_E1         U5_N00195 -VCC +VCC -VCC 0.5
X_U5_F6    U5_N00297 U5_N00251 N08923 -VCC VCA82X_BIAS_U5_F6 
X_U5_F3    U5_N00177 U5_N00183 +VCC N08572 VCA82X_BIAS_U5_F3 
X_U5_F4    U5_N00183 U5_N00189 +VCC N08740 VCA82X_BIAS_U5_F4 
X_U5_F2    U5_N00189 U5_N00257 +VCC N10100 VCA82X_BIAS_U5_F2 
X_U5_F5    U5_N00251 U5_N00205 N07015 -VCC VCA82X_BIAS_U5_F5 
R_U5_R3         U5_N00195 U5_N00205  1k  
Q_U6_Q24         N06304 U6_N16946 U6_N15431 NPN8 {x1}
R_U6_R15         U6_N26012 +VCC  300  
R_U6_R20         U6_N49467 U6_N46592  100  
R_U6_R24         -VIN U6_N336522  150  
Q_U6_Q23         U6_N00503 U6_N16946 U6_N13215 NPN8 {x6}
C_U6_C3         U6_N334753 U6_N334801  10m  TC=0,0 
C_U6_C1         U6_N00709 U6_N22036  0.5p  
Q_U6_Q28         U6_N22036 U6_N07222 U6_N26012 PNP8 {x6}
Q_U6_Q29         U6_N07222 U6_N07222 U6_N612661 PNP8 {x2}
Q_U6_Q37         U6_N49467 U6_N16946 U6_N49758 NPN8 {x6}
R_U6_R13         -VCC U6_N19410  2k  
D_U6_U1         U6_N334753 U6_N334759 dn3 
R_U6_R21         U6_N57293 +VCC  300  
Q_U6_Q30         N07015 U6_N07222 U6_N29549 PNP8 {x2}
R_U6_R18         -VCC U6_N36767  160  
R_U6_R25         U6_N3853581 +RG  10  
Q_U6_Q32         +RG U6_N16946 U6_N36767 NPN8 {x6}
E_U6_E1         U6_N00709 -VCC +VCC -VCC 0.5
R_U6_R23         +VIN U6_N336330  150  
Q_U6_Q36         U6_N46276 U6_N46276 U6_N46592 NPN8 {x14}
I_U6_I1         U6_N334759 U6_N334753 DC 1.5u  
Q_U6_Q26         U6_N16946 U6_N16946 U6_N19410 NPN8 {x2}
Q_U6_Q25         +VCC N06304 U6_N16946 NPN8 {x2}
Q_U6_Q40         U6_N42606 U6_N07222 U6_N57293 PNP8 {x6}
Q_U6_Q22         U6_N04782 U6_N04782 U6_N10900 NPN8 {x14}
Q_U6_Q21         +VCC U6_N336330 U6_N04782 NPN8 {x14}
R_U6_R14         U6_N612661 +VCC  2k  
R_U6_R17         -VCC U6_N13215  160  
Q_U6_Q34         +VCC U6_N336522 U6_N46276 NPN8 {x14}
Q_U6_Q33         N08372 U6_N22036 +RG NPN8 {x14}
R_U6_R22         -VCC U6_N51427  160  
E_U6_E2         U6_N334759 -VCC +VCC -VCC 0.5
R_U6_R19         -VCC U6_N49758  160  
Q_U6_Q27         U6_N22036 +RG U6_N00503 NPN8 {x14}
Q_U6_Q31         -VCC N07015 U6_N07222 PNP8 {x2}
C_U6_C2         U6_N00709 U6_N42606  0.5p  
Q_U6_Q38         U6_N42606 -RG U6_N49467 NPN8 {x14}
X_U6_F1    U6_N334801 U6_N334759 U6_N336330 U6_N334759
+  VCA82X_INPUT_BUFFER_U6_F1 
R_U6_R11         U6_N29549 +VCC  900  
E_U6_E4         U6_N3853202 -VCC +VCC -VCC 0.5
Q_U6_Q39         -RG U6_N16946 U6_N51427 NPN8 {x6}
R_U6_R16         U6_N00503 U6_N10900  100  
R_U6_R12         -VCC U6_N15431  955  
Q_U6_Q35         N08468 U6_N42606 -RG NPN8 {x14}
C_U6_C5         U6_N3853202 U6_N3853581  0.88p  TC=0,0 
R_U7_R27         -VCC U7_N01059  800  
Q_U7_Q56         U7_N65219 U7_N65219 U7_N64914 NPN8 {x4}
Q_U7_Q60         U7_N107420 U7_N89137 U7_N81704 NPN8 {x12}
Q_U7_Q86         U7_N168308 U7_N167450 U7_N168596 NPN8 {x16}
Q_U7_Q77         U7_N137141 U7_N137141 U7_N142127 PNP8 {x16}
R_U7_R25         GND U7_N89137  50  
R_U7_R23         -VCC U7_N01019  100  
Q_U7_Q59         U7_N86791 U7_N65219 U7_N01059 NPN8 {x1}
R_U7_R28         -VCC U7_N01061  200  
R_U7_R32         GND U7_N160714  50  
R_U7_R17         -VCC U7_N55967  100  
R_U7_R37         U7_N145504 +VCC  110  
Q_U7_Q45         U7_N34597 U7_N34597 U7_N34298 PNP8 {x12}
Q_U7_Q87         U7_N167450 U7_N167450 U7_N168824 NPN8 {x16}
Q_U7_Q84         U7_N165781 U7_N165781 U7_N168308 NPN8 {x16}
Q_U7_Q62         U7_N01231 U7_N65219 U7_N01061 NPN8 {x4}
R_U7_R11         U7_N34298 +VCC  160  
Q_U7_Q79         U7_N01317 U7_N142759 U7_N145504 PNP8 {x16}
Q_U7_Q80         N08740 U7_N01231 U7_N137141 PNP8 {x16}
Q_U7_Q52         U7_N53649 U7_N65219 U7_N55659 NPN8 {x8}
R_U7_R22         U7_N81704 U7_N82314  1k  
Q_U7_Q49         U7_N01387 U7_N01387 U7_N37408 PNP8 {x12}
R_U7_R21         U7_N01001 +VCC  740  
Q_U7_Q78         U7_N142759 U7_N142759 U7_N145276 PNP8 {x16}
R_U7_R13         U7_N1695201 VG  50  
Q_U7_Q61         U7_N116536 U7_N86791 U7_N82314 NPN8 {x12}
Q_U7_Q88         N08740 U7_N160714 N08923 NPN8 {x2}
Q_U7_Q65         U7_N01387 U7_N01387 U7_N107420 NPN8 {x12}
Q_U7_Q63         U7_N01317 U7_N65219 U7_N01207 NPN8 {x4}
R_U7_R34         U7_N142127 +VCC  110  
Q_U7_Q85         FB U7_N165781 U7_N167450 NPN8 {x16}
R_U7_R39         N08923 U7_N1690600  50  
Q_U7_Q70         U7_N119904 U7_N119904 U7_N122147 PNP8 {x16}
R_U7_R29         -VCC U7_N01207  200  
Q_U7_Q55         N08572 U7_N65219 U7_N67656 NPN8 {x2}
Q_U7_Q71         U7_N122683 U7_N122683 U7_N119904 PNP8 {x16}
R_U7_R31         -VCC U7_N168596  200  
Q_U7_Q68         U7_N116528 U7_N116512 U7_N01001 PNP8 {x12}
Q_U7_Q69         U7_N116536 U7_N116536 U7_N116528 PNP8 {x12}
Q_U7_Q74         U7_N122683 U7_N01351 N08468 NPN8 {x16}
R_U7_R26         U7_N86791 GND  4.1k  
R_U7_R24         -VCC U7_N01017  100  
Q_U7_Q57         U7_N81704 U7_N65219 U7_N01017 NPN8 {x8}
R_U7_R38         U7_N122147 +VCC  110  
Q_U7_Q47         U7_N37110 U7_N34597 U7_N34058 PNP8 {x12}
Q_U7_Q51         U7_N01387 U7_N45862 U7_N53649 NPN8 {x12}
Q_U7_Q46         U7_N01351 U7_N37408 U7_N34597 PNP8 {x12}
Q_U7_Q50         U7_N01351 U7_N1695201 U7_N51592 NPN8 {x12}
R_U7_R18         -VCC U7_N55659  100  
Q_U7_Q81         FB U7_N01317 U7_N142759 PNP8 {x16}
R_U7_R16         -VCC U7_N67656  400  
R_U7_R15         U7_N51592 U7_N53649  1k  
Q_U7_Q66         U7_N116512 U7_N116512 U7_N01003 PNP8 {x12}
R_U7_R35         U7_N145276 +VCC  110  
Q_U7_Q72         U7_N122683 U7_N01351 N08372 NPN8 {x16}
R_U7_R19         -VCC U7_N64914  1.4k  
Q_U7_Q58         U7_N82314 U7_N65219 U7_N01019 NPN8 {x8}
R_U7_R30         -VCC U7_N168824  200  
R_U7_R20         U7_N01003 +VCC  740  
R_U7_R12         U7_N34058 +VCC  160  
Q_U7_Q53         U7_N51592 U7_N65219 U7_N55967 NPN8 {x8}
Q_U7_Q76         U7_N01231 U7_N137141 U7_N141896 PNP8 {x16}
Q_U7_Q54         +VCC N08572 U7_N65219 NPN8 {x4}
Q_U7_Q67         U7_N107420 U7_N116536 U7_N116512 PNP8 {x12}
R_U7_R36         U7_N141896 +VCC  110  
R_U7_R33         U7_N142127 U7_N145276  2k  
Q_U7_Q73         U7_N01231 U7_N01387 N08372 NPN8 {x16}
Q_U7_Q75         U7_N01317 U7_N01387 N08468 NPN8 {x16}
Q_U7_Q48         U7_N37408 U7_N37408 U7_N37110 PNP8 {x12}
Q_U7_Q64         U7_N01351 U7_N01351 U7_N107420 NPN8 {x12}
R_U7_R14         GND U7_N45862  50  
Q_U7_Q82         U7_N165781 U7_N1690600 N08740 PNP8 {x16}
Q_U8_Q38         U8_N01099 U8_N38844 U8_N39084 PNP8 {x14}
R_U8_R18         U8_N01099 U8_N82756  125  
Q_U8_Q49         U8_N78893 U8_N78893 U8_N80276 NPN8 {x5}
E_U8_E2         U8_N389559 -VCC +VCC -VCC 0.5
R_U8_R24         U8_N163888 FB  0.01  
R_U8_R23         VREF U8_N52536  10  
R_U8_R10         U8_N23775 U8_N13605  600  
Q_U8_Q47         U8_N75689 U8_N78893 U8_N73458 NPN8 {x3}
R_U8_R13         U8_N00843 U8_N13605  250  
X_U8_F1    U8_N389453 U8_N389559 VREF U8_N389559 VCA821_4_OUTPUT_STAGE_U8_F1 
Q_U8_Q45         U8_N63102 N10100 U8_N66552 NPN8 {x2}
C_U8_C7         U8_N00839 U8_N13605  0.85p  TC=0,0 
Q_U8_Q39         U8_N13605 U8_N38844 U8_N84507 NPN8 {x14}
Q_U8_Q52         OUT U8_N91269 -VCC NPN8 {x60}
Q_U8_Q36         U8_N39084 U8_N31052 U8_N32378 PNP8 {x6}
R_U8_R16         U8_N01099 U8_N80276  150  
Q_U8_Q43         U8_N75689 U8_N63102 U8_N163888 PNP8 {x8}
R_U8_R21         +VCC U8_N13605  20  
Q_U8_Q50         U8_N84507 U8_N78893 U8_N82756 NPN8 {x6}
C_U8_C8         U8_N01099 U8_N80276  0.85p  TC=0,0 
Q_U8_Q33         U8_N01025 N09821 U8_N24027 PNP8 {x2}
Q_U8_Q41         U8_N35588 U8_N01025 U8_N163888 NPN8 {x8}
R_U8_R11         U8_N01099 U8_N67452  600  
D_U8_D14         U8_N73458 U8_N01099 DX 
Q_U8_Q42         U8_N63102 U8_N63102 U8_N52536 PNP8 {x8}
Q_U8_Q35         U8_N31052 U8_N31052 U8_N00839 PNP8 {x5}
Q_U8_Q32         U8_N24027 U8_N24027 U8_N23775 PNP8 {x2}
Q_U8_Q51         U8_N91269 U8_N91269 -VCC NPN8 {x60}
D_U8_D17         U8_N163888 U8_N1399050 DX 
Q_U8_Q62         U8_N01099 U8_N38844 U8_N39084 PNP8 {x8}
Q_U8_Q61         U8_N13605 U8_N38844 U8_N84507 NPN8 {x8}
D_U8_U1         U8_N389449 U8_N389559 dn3
Q_U8_Q34         U8_N35588 U8_N31052 U8_N00843 PNP8 {x3}
C_U8_C2         U8_N38844 U8_N13605  0.89p  
D_U8_D18         U8_N1399050 U8_N52536 DX 
R_U8_R12         U8_N01099 U8_N67680  600  
Q_U8_Q59         U8_N114858 U8_N114858 +VCC PNP8 {x60}
D_U8_D16         U8_N1375710 U8_N163888 DX 
Q_U8_Q46         U8_N66552 U8_N66552 U8_N67680 NPN8 {x2}
Q_U8_Q44         N10100 U8_N66552 U8_N67452 NPN8 {x2}
Q_U8_Q60         OUT U8_N114858 +VCC PNP8 {x60}
R_U8_R14         U8_N00839 U8_N13605  150  
Q_U8_Q58         U8_N114858 U8_N39084 OUT NPN8 {x60}
I_U8_I1         U8_N389559 U8_N389449 DC 3.12u  
Q_U8_Q37         U8_N38844 U8_N35588 U8_N31052 PNP8 {x3}
R_U8_R17         U8_N32378 U8_N13605  125  
C_U8_C3         U8_N01099 U8_N38844  0.89p  
R_U8_R9         U8_N19796 U8_N13605  600  
Q_U8_Q48         U8_N38844 U8_N75689 U8_N78893 NPN8 {x3}
R_U8_R19         -VCC U8_N01099  20  
D_U8_D12         U8_N13605 U8_N00839 DX 
Q_U8_Q31         N09821 U8_N24027 U8_N19796 PNP8 {x2}
D_U8_D13         U8_N52536 U8_N1375710 DX 
R_U8_R25         OUT OUT  10  
Q_U8_Q53         U8_N91269 U8_N84507 OUT PNP8 {x60}
C_U8_C6         U8_N389449 U8_N389453  10m  
D_U8_D11         U8_N13605 U8_N00843 DX 
Q_U8_Q40         U8_N01025 U8_N01025 U8_N52536 NPN8 {x8}
R_U8_R15         U8_N01099 U8_N73458  250  
D_U8_D15         U8_N80276 U8_N01099 DX 
.PARAM  x4={x2*2} x5={x1*5} x12={x6*2} x6={x2*3} x24={x1*24} x8=1 x14={x2*7}
+  x16={x8*2} x18={x1*18} x90={x1*90} x60={x12*5} x1={x2/2} x2={x8/4} x30={x1*30}
+  x3={x1*3}

.MODEL DN3 D( IS=.1F AF=1.0 KF=39.0E-17)

.model dx       d(is=0.1p rs=.1 cjo=2p tt=1p bv=100 ibv=0.1p)

.model NPN8 npn

+ is=7.604e-018
+ bf=157
+ nf=1
+ vaf=78.71
+ ikf=0.03975
+ ise=3.219e-014
+ ne=2
+ br=0.7614
+ nr=1
+ var=1.452
+ ikr=0.08172
+ isc=7.618e-021
+ nc=1.847
+ rb=106
+ irb=0
+ rbm=2.4
+ re=2.52
+ rc=127
+ cje=1.12e-013
+ vje=0.7591
+ mje=0.5406
+ tf=1.213e-011
+ xtf=2.049
+ vtf=1.813
+ itf=0.04293
+ ptf=0
+ cjc=8.208e-015
+ vjc=0.6666
+ mjc=0.4509
+ xcjc=0.0845
+ tr=4e-011
+ cjs=1.16e-013
+ vjs=0.5286
+ mjs=0.4389
+ xtb=1.022
+ eg=1.12
+ xti=1.78
+ kf=3.5e-016
+ af=1
+ fc=0.8273


.model PNP8 pnp

+ is=7.999e-018
+ bf=141.8
+ nf=1
+ vaf=41.58
+ ikf=0.1085
+ ise=2.233e-015
+ ne=1.505
+ br=32.52
+ nr=1.05
+ var=1.093
+ ikr=5e-005
+ isc=6.621e-016
+ nc=1.15
+ rb=62.46
+ irb=0
+ rbm=2.24
+ re=2.537
+ rc=126
+ cje=9.502e-014
+ vje=0.732
+ mje=0.493
+ tf=1.303e-011
+ xtf=35
+ vtf=3.259
+ itf=0.2639
+ ptf=0
+ cjc=1.08e-013
+ vjc=0.7743
+ mjc=0.5
+ xcjc=0.08504
+ tr=1.5e-010
+ cjs=1.29e-013
+ vjs=0.9058
+ mjs=0.4931
+ xtb=1.732
+ eg=1.12
+ xti=2
+ kf=3.5e-016
+ af=1
+ fc=0.85

.ENDS VCA824

.subckt VCA82X_BIAS_U5_F8 1 2 3 4  
F_U5_F8         3 4 VF_U5_F8 1
VF_U5_F8         1 2 0V
.ends VCA82X_BIAS_U5_F8

.subckt VCA82X_BIAS_U5_F1 1 2 3 4  
F_U5_F1         3 4 VF_U5_F1 1.05
VF_U5_F1         1 2 0V
.ends VCA82X_BIAS_U5_F1

.subckt VCA82X_BIAS_U5_F6 1 2 3 4  
F_U5_F6         3 4 VF_U5_F6 1
VF_U5_F6         1 2 0V
.ends VCA82X_BIAS_U5_F6

.subckt VCA82X_BIAS_U5_F3 1 2 3 4  
F_U5_F3         3 4 VF_U5_F3 1
VF_U5_F3         1 2 0V
.ends VCA82X_BIAS_U5_F3

.subckt VCA82X_BIAS_U5_F4 1 2 3 4  
F_U5_F4         3 4 VF_U5_F4 1
VF_U5_F4         1 2 0V
.ends VCA82X_BIAS_U5_F4

.subckt VCA82X_BIAS_U5_F2 1 2 3 4  
F_U5_F2         3 4 VF_U5_F2 1
VF_U5_F2         1 2 0V
.ends VCA82X_BIAS_U5_F2

.subckt VCA82X_BIAS_U5_F5 1 2 3 4  
F_U5_F5         3 4 VF_U5_F5 1.05
VF_U5_F5         1 2 0V
.ends VCA82X_BIAS_U5_F5

.subckt VCA82X_INPUT_BUFFER_U6_F1 1 2 3 4  
F_U6_F1         3 4 VF_U6_F1 20
VF_U6_F1         1 2 0V
.ends VCA82X_INPUT_BUFFER_U6_F1

.subckt VCA821_4_OUTPUT_STAGE_U8_F1 1 2 3 4  
F_U8_F1         3 4 VF_U8_F1 600
VF_U8_F1         1 2 0V
.ends VCA821_4_OUTPUT_STAGE_U8_F1




